US07452893B2
Step 6: (1S,3S)-N-[2,2-difluoro-2-(4-methylphenyl)ethyl]cyclopentane-1,3-diamine
1M borane in THF (20 mL, 20 mmol) was added slowly to a stirred solution of N-[(1S,3S)-3-aminocyclopentyl]-2,2-difluoro-2-(4-methylphenyl)acetamide (1.006 g, 3.749 mmol) in dry THF (20 mL) at 0° C. The reaction mixture was warmed to rt. and then was heated to 70° C. for 1 h. The reaction mixture was cooled, quenched with 6N HCl (2.5 mL, 15 mmol) and stirred at rt for 16 h. Aqueous sodium carbonate was added to pH=11, and the mixture was extracted with EtOAc, dried (MgSO4), filtered and concentrated. The resulting oil was purified by silica gel chromatography (eluting with 1.2% NH4OH/10.8% MeOH/CHCl3) to give the title compound as a pale yellow oil (627 mg): MS=255.4 (M+1).

reactant | borane | 1M | B | BH3
reactant | N-[(1S,3S)-3-aminocyclopentyl]-2,2-difluoro-2-(4-methylphenyl)acetamide | 3.749 mmol, 1.006 g | N[C@@H]1C[C@H](CC1)NC(C(C1=CC=C(C=C1)C)(F)F)=O | C14H18F2N2O
reactant | HCl | 15 mmol, 6N, 2.5 mL | Cl | ClH
reactant | sodium carbonate | C([O-])([O-])=O.[Na+].[Na+]
solvent | THF | 20 mL | C1CCOC1 | C4H8O
solvent | THF | 20 mmol, 20 mL | C1CCOC1 | C4H8O
product | (1S,3S)-N-[2,2-difluoro-2-(4-methylphenyl)ethyl]cyclopentane-1,3-diamine | 627 mg | FC(CN[C@@H]1C[C@H](CC1)N)(C1=CC=C(C=C1)C)F | C14H20F2N2
